US05444084
44.6 g of 4-cyanobutyltriphenylphosphonium bromide is dissolved in 250 ml of dimethylformamide, 4.2 g of 60% oily sodium hydride is added under ice cooling and stirring, then mixture is stirred at that temperature for 30 minutes, 18 g of 3-(3-thienyl)benzaldehyde is added, and the mixture is stirred at room temperature for further 20 hours. The reaction solution is diluted with water, acetic acid is added for neutralization, and then the solvent is distilled off under reduced pressure. The residue is led to two liquid phases using a system of water and ethyl ether, the organic layer is taken, washed with saturated saline and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography [Wako gel C-100, 500 g; hexane/ethyl acetate=4/1] to obtain 23.2 g (E)-6-[3-(3-thienyl)phenyl]-5-hexenenitrile as colorless oil.

reactant | 4-cyanobutyltriphenylphosphonium bromide | 44.6 g | [Br-].C(#N)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 3-(3-thienyl)benzaldehyde | 18 g | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-6-[3-(3-thienyl)phenyl]-5-hexenenitrile | 23.2 g | S1C=C(C=C1)C=1C=C(C=CC1)/C=C/CCCC#N | C16H15NS
